US06437184B1
To a mixture of 3.40 g of p-(hydroxymethyl)benzaldehyde obtained in the same manner as described above, 7.2 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol, 6.56 g of triphenylphosphine, and 50 ml of tetrahydrofuran was slowly added dropwise 5.05 g of diisopropyl azodicarboxylate with stirring under ice cooling. After stirring at room temperature for 12 hours, the reaction mixture was concentrated to give a residue. This residue was subjected to silica gel chromatography, which afforded 4.75 g (yield, 46%) of 4-((2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)methyl)benzaldehyde, m.p., 93.9° C.

reactant | p-(hydroxymethyl)benzaldehyde | 3.40 g | OCC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 7.2 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | triphenylphosphine | 6.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 5.05 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-((2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)methyl)benzaldehyde | 4.75 g, 46% | ClC1=C(OCC2=CC=C(C=O)C=C2)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C17H12Cl4O3
